US05075447
Preparation of methyl p-[β-chloropropionyl]-5-phenylvalerate
In a stirring flask equipped with a reflux condenser are placed 9.3 g of AlCl3, 10 ml of CS2 and 1.98 ml of β-chloropropionyl chloride. To this mixture are added dropwise at room temperature within 5 minutes 3.61 g of 5-phenylvaleric acid (rinsing is carried out with 2 ml of CS2). The reaction mixture is subsequently stirred for a further 15 minutes, warmed slightly and then cooled. The reaction mixture is then pipetted into a stirred mixture of ice, water and ether. The organic phase is washed neutral with bicarbonate solution and water. After drying over MgSO4 the solvent is removed and 5.03 g of crystalline product are thus obtained.

reactant | AlCl3 | 9.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | β-chloropropionyl chloride | 1.98 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | 5-phenylvaleric acid | 3.61 g | C1(=CC=CC=C1)CCCCC(=O)O | C11H14O2
reactant | CS2 | 10 ml | C(=S)=S | CS2
product | methyl p-[β-chloropropionyl]-5-phenylvalerate | 5.03 g | ClCCC(=O)C1=CC=C(C=C1)CCCCC(=O)OC | C15H19ClO3
